US04863935
N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine (500 mg) and 2-(2-aminoethyl)pyridine (375 μl) were subjected to the reactions described in References 2 and 4 to give 2-(2-pyridyl)ethylaminocarbonylthioethylamine (crude formate: 218 mg). The product (190 mg) was dissolved in anhydrous methanol (3 ml), to which were then added triethylamine (490 μl) and mitomycin A (245 mg: 1.0 molar equivalent). The reaction solution was treated in a similar manner to that described in Example 1 to obtain Compound 49 (297 mg) in the form of grayish blue powders with a yield of 78%.

reactant | N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine | 500 mg | C1(=CC=CC=C1)C(NCCSC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O4S
reactant | 2-(2-aminoethyl)pyridine | 375 μl | NCCC1=NC=CC=C1 | C7H10N2
product | 2-(2-pyridyl)ethylaminocarbonylthioethylamine | 218 mg | N1=C(C=CC=C1)CCNC(=O)SCCN | C10H15N3OS
